US04426382
4-Amino-6,7-dimethoxy-2-(4-phenoxyacetyl-1-piperazinyl)quinazoline hydrochloride hydrate (Compound No. 27 hydrochloride hydrate)
To 20 ml of tetrahydrofuran were added 1.16 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline and 1.5 g of triethylamine. There was then added to the resulting mixture 0.7 g of phenoxyacetyl chloride, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was then concentrated by evaporation under reduced pressure, and the residue was extracted with chloroform. The extract was washed with water, and then the solvent was distilled from the extract under reduced pressure. The resulting residue was dissolved in ethanol, and a 10% w/w solution of hydrogen chloride in ethanol was added to this solution. The crystals thereby produced were collected by filtration and dried, to give 1.04 g of the desired Compound No. 27 hydrochloride hydrate in the form of pale yellow powdery crystals melting at 238°-240° C. (with decomposition).

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 1.16 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
reactant | phenoxyacetyl chloride | 0.7 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
product | 4-Amino-6,7-dimethoxy-2-(4-phenoxyacetyl-1-piperazinyl)quinazoline hydrochloride hydrate | 1.04 g | O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(COC1=CC=CC=C1)=O | InChI=1S/C22H25N5O4.ClH.H2O/c1-29-18-12-16-17(13-19(18)30-2)24-22(25-21(16)23)27-10-8-26(9-11-27)20(28)14-31-15-6-4-3-5-7-15;;/h3-7,12-13H,8-11,14H2,1-2H3,(H2,23,24,25);1H;1H2
